US05108990
STEP A: Triethyl 1-formamido-3-methylene-5-(tert-butoxycarbonylamino)-1,1,5-pentanetricarboxylate
13.6 g of di-tert-butyl pyrocarbonate dissolved in 25 ml of methylene chloride were added at room temperature to 19.5 g of triethyl 1-formamido-3-methylene-5-amino-1,1,5-pentanetricarboxylate dissolved in 75 ml of methylene chloride, and the mixture was maintained with stirring at room temperature for 36 hours. The reaction medium was diluted with 150 ml of methylene chloride and the organic phase was washed with water and dried. The solvents were removed under reduced pressure and the mixture was left to crystallize at +4° C. to obtain 25.8 g of expected product melting at 68° C.

reactant | di-tert-butyl pyrocarbonate | 13.6 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethyl 1-formamido-3-methylene-5-amino-1,1,5-pentanetricarboxylate | C(=O)NC(CC(CC(C(=O)OCC)N)=C)(C(=O)OCC)C(=O)OCC | C16H26N2O7
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Triethyl 1-formamido-3-methylene-5-(tert-butoxycarbonylamino)-1,1,5-pentanetricarboxylate | 25.8 g | C(=O)NC(CC(CC(C(=O)OCC)NC(=O)OC(C)(C)C)=C)(C(=O)OCC)C(=O)OCC | C21H34N2O9
